US06307047B1
2-(4-Fluorophenyl)-4-(3-methyl-2-butenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 335, substituting 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(3-chlorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting 3-methyl-2-buten-1-ol in place of isobutanol (yield: 0.1284 g, 88%). mp 128-132° C. 1H NMR (300 MHz, DMSO d6) δ 1.58 (s, 3H), 1.67 (s, 3H), 3.30 (s, 3H), 4.95 (d, J=7 Hz, 2H), 5.31 (m, 1H), 7.38 (m, 2H), 7.65 (m, 2H), 7.89 (m, 2H), 8.06 (m, 2H), 8.18 (s, 1H). MS (DCI/NH3) m/z 429 (M+H)+, 446 (M+NH4)+. Anal calc. for C22H21FN2O4S: C, 61.67; H, 4.94; N, 6.54. Found: C, 61.41; H, 4.95; N, 6.47.

reactant | 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H19FN2O6S2
reactant | 3-methyl-2-buten-1-ol | CC(=CCO)C | C5H10O
reactant | NH3 | N | H3N
product | 2-(4-Fluorophenyl)-4-(3-methyl-2-butenoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC1=CC=C(C=C1)N1N=CC(=C(C1=O)OCC=C(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C22H21FN2O4S
